US07199147B2
Under a nitrogen atmosphere, 28%-sodium methoxide (64 μl, 0.311 mmol) was added at 0° C. to a suspension of cis-1-{4-[(1-acetyl-4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}pyrrolidine-2,5-dione (500 mg, 0.311 mmol) in a mixture of methanol (3 ml) and tetrahydrofuran (3 ml). After 10 minutes, a saturated aqueous ammonium chloride solution was added to the reaction solution and the resulting mixture was poured into water and extracted with ethyl acetate. The extract solution was concentrated under reduced pressure, and to a solution of the resulting residue in tetrahydrofuran (4 ml) was added lithium aluminum hydride (47 mg, 1.25 mmol) and the resulting mixture was refluxed. After 4 hours, water, a 2M-aqueous sodium hydroxide solution and water were added thereto in that order, and the resulting mixture was filtered by the use of Celite. The filtrate was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol→chloroform/methanol (1%-aqueous ammonia)) to obtain cis-4-methyl-5-[(4-pyrrolidin-1-ylcyclohexyl)oxy]-1H-indazole (59.6 mg, 64%) and cis-4({4-methyl-1H-indazol-5-yl}oxy)cyclohexyl}amino)butan-1-ol (15.4 mg, 16%).

reactant | sodium methoxide | 0.311 mmol, 64 μl | C[O-].[Na+]
reactant | cis-1-{4-[(1-acetyl-4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}pyrrolidine-2,5-dione | 0.311 mmol, 500 mg | C(C)(=O)N1N=CC2=C(C(=CC=C12)O[C@H]1CC[C@H](CC1)N1C(CCC1=O)=O)C | C20H23N3O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | lithium aluminum hydride | 1.25 mmol, 47 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | cis-4-methyl-5-[(4-pyrrolidin-1-ylcyclohexyl)oxy]-1H-indazole | 59.6 mg, 64% | CC1=C2C=NNC2=CC=C1O[C@@H]1CC[C@@H](CC1)N1CCCC1 | C18H25N3O
